US06479424B1
Bis(2-(3,5-di-t-butylphenyl)-5,6-bis(trimethylsilyl)indenyl)zirconium dichloride
2-(3,5-Di-t-butylphenyl)-5,6-bis-trimethylsilylindene (1.5 g, 3.35 mmol) was dissolved in diethyl ether (100 mL) and cooled to −78° C. Butyllithium (2.1 mL of a 1.6 M solution in hexanes, 3.35 mmol) was added dropwise, causing a slight color change from yellow to yellow orange. The reaction was warmed to room temperature and allowed to stir for 2 hours. The flask was taken into a drybox where ZrCl4 (389 mg, 1.67 mmol) was added to the reaction in one portion at room temperature. The reaction was stirred overnight at room temperature The yellow suspension, was cooled to 0° C. and filtered through celite. The celite bed was washed with methylene chloride until the washings ran clear. The yellow methylene chloride solution was evaporated under vacuum to give a yellow powder that was roughly 20% unreacted ligand. The sample was used without further purification (1.25 g total, about 1.1 g bis(2-(3,5-di-t-butylphenyl)-5,6-bis(trimethylsilyl)indenyl)zirconium dichloride, 1.04 mmol, 62%).

reactant | 2-(3,5-Di-t-butylphenyl)-5,6-bis-trimethylsilylindene | 3.35 mmol, 1.5 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C=1CC2=CC(=C(C=C2C1)[Si](C)(C)C)[Si](C)(C)C | C29H44Si2
reactant | Butyllithium | C(CCC)[Li]
reactant | ZrCl4 | 1.67 mmol, 389 mg | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | Bis(2-(3,5-di-t-butylphenyl)-5,6-bis(trimethylsilyl)indenyl)zirconium dichloride | [Cl-].[Cl-].C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C=1C(C2=CC(=C(C=C2C1)[Si](C)(C)C)[Si](C)(C)C)[Zr+2]C1C(=CC2=CC(=C(C=C12)[Si](C)(C)C)[Si](C)(C)C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | InChI=1S/2C29H43Si2.2ClH.Zr/c2*1-28(2,3)24-15-23(16-25(19-24)29(4,5)6)20-13-21-17-26(30(7,8)9)27(31(10,11)12)18-22(21)14-20;;;/h2*13-19H,1-12H3;2*1H;/q;;;;+2/p-2
